US08293746B2
Step 30.3: 1-Isopropyl-4-(5-nitro-pyridin-2-yl)-piperazine (NVP-BKT293)
N-Isopropylpiperazine (1.8 mL, 12.7 mmol, 2 equiv) is added to a cold (5° C.) mixture of 2-chloro-5-nitropyridine (1 g, 6.3 mmol) in DCM (5 mL). The reaction mixture is allowed to warm to RT, stirred for 16 h, diluted with DCM/H2O and extracted with DCM. The organic phase is washed with brine, dried (Na2SO4), filtered and concentrated to provide the title compound as a yellow solid: ES-MS: 251.2 [MH]+; tR=2.20 min (system 1).

reactant | N-Isopropylpiperazine | 12.7 mmol, 1.8 mL, 2 equiv | C(C)(C)N1CCNCC1 | C7H16N2
reactant | 2-chloro-5-nitropyridine | 6.3 mmol, 1 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM H2O | C(Cl)Cl.O
product | 1-Isopropyl-4-(5-nitro-pyridin-2-yl)-piperazine | C(C)(C)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C12H18N4O2
